US08076491B2
4-Propoxy benzaldehyde (5 g, 31 mmol) and furfuryl amine (3.9 g, 40 mmol) in a mixture of methanol (50 mL), trimethylorthoformate (10 mL) and AcOH (˜1 mL) were stirred at room temperature, under an atmosphere of nitrogen for 16 hours. Sodium borohydride (1.4 g, 35 mmol) was added in 4 portions, over a period of 30 minutes (exothermic reaction). The reaction was stirred for an additional 2 hours at room temperature. The solvent was removed on the rotovap and the residue taken up in ethyl acetate (150 mL). The organic phase was washed with H2O (200 mL) and aqueous phase was back extracted with ethyl acetate (2×, 100 mL). The combined organic layers were concentrated and the residue was purified on silica gel (70% ethyl acetate in hexanes with ˜2% triethylamine) to afford N-(4-propoxybenzyl)-1-(furan-2-yl)methanamine (5.3 g, 75%) as a yellow oil. NMR (CDCl3, 400 MHz): δ 1.03 (t, J=7.2 Hz, 3H), 1.79 (m, J=6.4 Hz, 2H), 3.71 (s, 2H), 3.76 (s, 2H), 3.90 (t, J=6.8 Hz, 2H), 6.17 (d, J=3.2 Hz, 1H), 6.32 (m, 1H), 6.85 (d, J=8.4 Hz, 2H), 7.22 (d, J=8.8 Hz, 2H), 7.37 (m, 1H).

reactant | 4-Propoxy benzaldehyde | 31 mmol, 5 g | C(CC)OC1=CC=C(C=O)C=C1 | C10H12O2
reactant | furfuryl amine | 40 mmol, 3.9 g | C(C1=CC=CO1)N | C5H7NO
reactant | trimethylorthoformate | 10 mL | COC(OC)OC | C4H10O3
reactant | Sodium borohydride | 35 mmol, 1.4 g | [BH4-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
solvent | AcOH | ˜1 mL | CC(=O)O | C2H4O2
product | N-(4-propoxybenzyl)-1-(furan-2-yl)methanamine | 5.3 g, 75% | C(CC)OC1=CC=C(CNCC=2OC=CC2)C=C1 | C15H19NO2
